US06573289B1
Production of 1-(6-Bromonaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
2,6-Dibromonaphthalene (25.0 g) was dissolved in THF (1250 ml). The solution was cooled to −50° C. To the solution was slowly added a solution of n-butyllithium in hexane (1.6 M; 57 ml), and the mixture was stirred at −50° C. for 20 min. To the mixture was added dropwise a solution of 4-formyl-1-trityl-1H-imidazole (22.2 g) in THF (200 ml). The mixture was stirred at 50° C. for 20 min. To the mixture was added water, and the organic layer was separated. The aqueous layer was extracted with ethyl acetate. The organic layers were combined, dried and concentrated. The residue was purified by silica gel chromatography (eluent, hexane:THF=1:1), and recrystallized from hexane-THF to give the titled compound (31.2 g) as a pale brown powder.

reactant | 2,6-Dibromonaphthalene | 25.0 g | BrC1=CC2=CC=C(C=C2C=C1)Br | C10H6Br2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-formyl-1-trityl-1H-imidazole | 22.2 g | C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H18N2O
reactant | water | O | H2O
solvent | THF | 1250 ml | C1CCOC1 | C4H8O
solvent | hexane | 1.6 M, 57 ml | CCCCCC | C6H14
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-(6-Bromonaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 31.2 g | BrC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CNC1 | C17H17BrN2O
